US04997844
A mixture of 2.19 g. of sodium 3-chloro-6-nitroindazolide in 50 ml. methanol was stirred with 2.85 g methyl 3-methoxy-4-bromomethylbenzoate for 2 hours. After addition of 150 ml. water, the resultant precipitate was collected and recrystallised from ethyl acetate to give methyl 4-[3-chloro-6-nitroindazol-1-ylmethyl]-3-methoxybenzoate in 70% yield as a solid, m.p. 167°-168.5° C. A mixture of 1.25 g. of this solid was hydrogenated in the presence of 385 mg. 5% w/w palladium on calcium carbonate in 20 ml. ethyl acetate and 20 ml. methanol for 3 hours at a pressure of 1.1 bar. The catalyst was removed by filtration through diatomaceous earth. The filtrate was concentrated to low volume in vacuo and the residue (ca 3 ml.) was diluted with ether and petroleum ether (b.p. 40°-60° C.) and cooled to -20° C. The precipitated solid was collected and dried at 80° C. to give the ester L in 90% yield, m.p. 131°-131.5° C.

reactant | sodium 3-chloro-6-nitroindazolide | ClC1=N[N-]C2=CC(=CC=C12)[N+](=O)[O-].[Na+]
reactant | methyl 3-methoxy-4-bromomethylbenzoate | 2.85 g | COC=1C=C(C(=O)OC)C=CC1CBr | C10H11BrO3
solvent | methanol | CO | CH4O
product | methyl 4-[3-chloro-6-nitroindazol-1-ylmethyl]-3-methoxybenzoate | 70% yield | ClC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])CC1=C(C=C(C(=O)OC)C=C1)OC | C17H14ClN3O5
